US05258378
2-Bromo-1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine
A solution of 1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine (0.238 g) in tetrahydrofuran (30 ml) was cooled to -70° C. N-Bromosuccinimide (0.188 g) in tetrahydrofuran (3 ml) was added dropwise over 10 minutes, allowing the temperature to reach -10° C. over 40 minutes. Water was added and the product was extracted into ethyl acetate. The extracts were washed with water, dried and evaporated to give the title product as a solid, m.p. 132°-133° C. (acetonitrile).

reactant | 1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine | 0.238 g | CN1CC(C2=C(CC1)C=CN2)C2=CC=CC=C2 | C15H18N2
reactant | N-Bromosuccinimide | 0.188 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-Bromo-1,4,5,6,7,8-hexahydro-6-methyl-8-phenylpyrrolo[2,3-d]azepine | BrC1=CC2=C(C(CN(CC2)C)C2=CC=CC=C2)N1 | C15H17BrN2
